US08039441B2
(2-Bromo-5-iodo-phenyl)-(4-ethyl-phenyl)-methanone
Oxalyl chloride (9 mL) and dimethylformamide (0.5 mL) are added to a mixture of 2-bromo-5-iodo-benzoic acid (25 g) in dichloromethane (80 ml). The reaction mixture is stirred for 14 h at room temperature, then filtered and separated from all volatile constituents in a rotary evaporator. The residue is dissolved in dichloromethane (50 mL) and ethyl-benzene (23 mL) and the resultant solution is cooled to −5° C. Then aluminum trichloride (12.5 g) is added batchwise so that the temperature maintains below 10° C. The solution is warmed slowly to room temperature and stirred overnight. The solution is poured onto crushed ice, the organic phase is separated, and the aqueous phase is extracted with ethyl acetate. The combined organic phases are washed with hydrochloric acid (1 mol/l), sodium hydroxide solution (1 mol/l) and with brine. The organic phase is dried over sodium sulphate and the solvent is removed to give the product as an oil that crystallizes on standing.

reactant | Oxalyl chloride | 9 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
reactant | 2-bromo-5-iodo-benzoic acid | 25 g | BrC1=C(C(=O)O)C=C(C=C1)I | C7H4BrIO2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | (2-Bromo-5-iodo-phenyl)-(4-ethyl-phenyl)-methanone | BrC1=C(C=C(C=C1)I)C(=O)C1=CC=C(C=C1)CC | C15H12BrIO
